US04657915
A stirred mixture containing 13.5 g of 5-bromo-1,6-naphthyridin-2(1H)-one, 18 ml of 3-methyl-1H-pyrazole and 75 ml of N-methylpyrrolidinone was heated in an oil bath at 170°-180° C. for 18 hours, after which a tlc analysis indicated some remaining starting material. The temperature of the oil bath was raised to 200° C.; and, the reaction mixture was heated for an additional 5 hours and then poured into water. The solid that separated was collected, dried and combined with 1.7 g of corresponding material obtained in another run starting with 2.25 g of 5-bromo-1,6-naphthyridin-2(1H)-one. The combined solids were recrystallized from dimethylformamide and dried in an oven for three days at 100° C. to yield 6.6 g of 5-(3-methyl-1H-pyrazol-1-yl)-1,6-naphthyridin-2(1H)-one, m.p. >300° C.

reactant | 5-bromo-1,6-naphthyridin-2(1H)-one | 13.5 g | BrC1=C2C=CC(NC2=CC=N1)=O | C8H5BrN2O
reactant | 3-methyl-1H-pyrazole | 18 ml | CC1=NNC=C1 | C4H6N2
reactant | N-methylpyrrolidinone | 75 ml | CN1C(CCC1)=O | C5H9NO
reactant | 5-bromo-1,6-naphthyridin-2(1H)-one | 2.25 g | BrC1=C2C=CC(NC2=CC=N1)=O | C8H5BrN2O
solvent | water | O | H2O
product | 5-(3-methyl-1H-pyrazol-1-yl)-1,6-naphthyridin-2(1H)-one | 6.6 g | CC1=NN(C=C1)C1=C2C=CC(NC2=CC=N1)=O | C12H10N4O
